Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine / Penicillins
 
Attending: ___
 
Chief Complaint:
An acute episode of dysarthria, difficulty walking, and possible 
facial droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with a past medical history of mild dementia
and "TIAs" with report of previous strokes on MRI who had an
episode of dysarthria, difficulty walking, possible facial droop
earlier today.  She was out to lunch with her family around 1:30
___.  When they finished she was able to get up and go to the
bathroom with no issues.  As they were leaving the restaurant,
she became unable to walk.  It appeared as if she was stumbling
as she tried to walk up an incline.  She became somewhat 
agitated
and less responsive.  Her family thought that she was talking 
out
of the side of her mouth because it appeared twisted.  They 
think
that this lasted about 5 minutes.  She was able to get into the
car, when she started talking to the back of the driver seat as
if it was her daughter.  She then had some nausea and vomited so
911 was called. On EMS assessment, her blood pressure was 
160/85,
pulse 129, with atrial fibrillation noted on a EKG. She was
transported to ___ where she was started on a
diltiazem drip for AFIB with RVR and received anticoagulation
with 75 mg Lovenox.  While in the ___  emergency room, she was
in normal sinus and per her family back to baseline.  Neurology
was called for workup and management recommendations.  

On neuro ROS, she states that she feels her language is a little
"off".  Chronic incontinence.  Chronic difficulties with gait. 
She denies headache, loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies focal weakness, numbness,
paresthesias. No bowel or bladder incontinence or retention. 
 
On general review of systems, the pt denies recent illnesses.  
Denies cough, shortness of breath.  Denies chest pain or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.
 
 
Past Medical History:
Previous "TIAs", hospitalized at ___
Hypertension
Iron deficiency anemia
Recurrent UTIs with h/o urosepsis
GERD
 
Social History:
___
Family History:
Her mother had a stroke, diabetes, heart disease, and peripheral 
vascular disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GENERAL EXAM: 
- Vitals: Temperature 98 heart rate 89 blood pressure 129/70
respiratory 18 pulse ox 95% on room air
- General: Awake, cooperative, anxious
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, mildly tender to palpation
- Extremities: Pitting edema

 
NEURO EXAM: 
- Mental Status: Awake, alert, oriented to her name the year
hospital.  Difficulty recalling the events that occurred today. 
Unable to name the months of the year backwards.  Take several
times to tell me the days of the week backwards.  Unable to name
___ or cactus on the stroke card.  Able to describe the
___ jar theft picture with no evidence of neglect.  
Stuttering
when asked to repeat phrases.  For example, "No, and, and, and"
then stops.  Words are slow at times.  She makes some paraphasic
errors for example "branch" when she is trying to say feather,
stumbled over some of her answers.  Able to read with no errors.
Able to register 3 objects on 3 attempts and recall ___ and ___
with prompting at 5 minutes. With closed eyes, when asked to
point at objects around the room gets them consistently wrong
i.e. points to the wrong area where the curtain is, the 
computer,
the sink.  Perseverates on answers, repeating
"point...point...point" when I ask her to point to the hand that
is wiggling.  

- Cranial Nerves:
PERRL 1.5 to 1mm and brisk. VFF to confrontation with no
extinction. EOMI. Facial sensation intact to light touch  and
pinprick. No facial droop, chronic left-sided ptosis.  Hearing
intact to raised voice. Tongue protrudes in midline and to 
either
side with no evidence of atrophy or weakness.

- Motor: Paratonia throughout.  Difficulty extending arms with
bilateral pronation but no drift.  Action tremor left greater
than right.  Power exam extremely limited secondary to her
ability to cooperate.  Instructions have to be repeated multiple
times and she still has difficulty cooperating with the exam.  
At
best, she has ___ for strength in all muscle groups because she
is unable to perform and maintain the movement requested in
addition there is limitation secondary to joint pain. 

 Delt Bic Tri WrE IP Quad Ham TA Gastroc 
L  4    ___  ___  4     4     
R  4    ___  ___  4     4     

- Sensory: Reports no deficits to light touch or pinprick. No
extinction to DSS.
- DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    2   0
R  3  2    3    2   0
Plantar response was WD versus extension on the right, flexor on
the left. 
- Coordination: Action tremor left greater than right.  No
dysmetria on FNF or HKS bilaterally.
- Gait: Deferred
DISCHARGE PHYSICAL EXAM:
- General: Awake, cooperative, lying in bed, NAD
- HEENT: NC/AT
- Neck: Supple, nontender
- Pulmonary: CTAB,no increased WOB
- Cardiac: Normal S1 and S2, RRR 
- Abdomen: soft, NT/ND, no organomegaly
- Extremities: Pitting edema present in ___ b/l 

Neurologic: 
- Mental Status: Awake, alert, oriented to name and hospital, 
but
not year. 

- Cranial Nerves:
PERRL 1.5 to 1mm and brisk. VFF to confrontation with no
extinction. EOMI. Facial sensation intact to light touch  and
pinprick. No facial droop, chronic left-sided ptosis.  Hearing
intact to raised voice. Tongue protrudes in midline and to 
either
side with no evidence of atrophy or weakness.

- Motor: Paratonia throughout.  Difficulty extending arms with
bilateral pronation but no drift.  Action tremor left greater
than right.  Power exam extremely limited secondary to her
ability to cooperate.  Instructions have to be repeated multiple
times and she still has difficulty cooperating with the exam.  
At
best, she has ___ for strength in all muscle groups due to
chronic joint pain.  

- Sensory: Reports no deficits to light touch or pinprick. No
extinction to DSS.
- DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    2   0
R  3  2    3    2   0
Plantar response was WD versus extension on the right, flexor on
the left. 

- Coordination: Action tremor left greater than right.  No
dysmetria on FNF or HKS bilaterally.

- Gait: steady with standing

 
Pertinent Results:
___ 05:05AM BLOOD WBC-8.7 RBC-3.31* Hgb-9.5* Hct-29.2* 
MCV-88 MCH-28.7 MCHC-32.5 RDW-14.4 RDWSD-46.8* Plt ___
___ 05:05AM BLOOD Glucose-88 UreaN-18 Creat-1.1 Na-142 
K-4.1 Cl-105 HCO3-25 AnGap-16
___ 05:05AM BLOOD Calcium-9.0 Phos-3.0 Mg-1.9
___ 04:50AM BLOOD WBC-6.9 RBC-3.27* Hgb-9.3* Hct-29.1* 
MCV-89 MCH-28.4 MCHC-32.0 RDW-14.3 RDWSD-46.4* Plt ___
___ 06:00PM BLOOD Neuts-64.1 ___ Monos-8.5 Eos-2.0 
Baso-0.8 Im ___ AbsNeut-6.92* AbsLymp-2.63 AbsMono-0.92* 
AbsEos-0.22 AbsBaso-0.09*
___ 04:50AM BLOOD Glucose-100 UreaN-22* Creat-1.1 Na-141 
K-4.2 Cl-106 HCO3-24 AnGap-15
___ 06:00PM BLOOD ALT-11 AST-21 AlkPhos-71 TotBili-0.2
___ 04:50AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.9 Cholest-235*
___ 04:50AM BLOOD %HbA1c-5.7 eAG-117
___ 04:50AM BLOOD Triglyc-165* HDL-47 CHOL/HD-5.0 
LDLcalc-155*
___ 06:00PM BLOOD TSH-7.3*
___ 06:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ H&N

1. Punctate focus of slow diffusion in the anterior pons, 
possibly 
representing an acute infarct, is difficult to appreciate on CT. 
 No 
hemorrhage. 
2. Multifocal irregularity with multiple short segment moderate 
to severe 
luminal narrowing in the proximal right posterior cerebral 
artery is likely 
related to atherosclerosis.  Severe narrowing of the right AICA 
origin is also 
noted. 
3. Multifocal atherosclerotic calcifications are present along 
the cavernous 
and paraclinoid segments of the internal carotid arteries 
bilaterally without 
high-grade luminal narrowing. 
4. No cervical internal carotid artery stenosis  

___ Brain w/o
1. Punctate diffusion-weighted hyperintense focus with 
associated subtle FLAIR signal in the anterior peripheral 
midline pons may represent late acute 
infarct, versus artifact. 
2. Periventricular and subcortical T2/FLAIR white matter 
hyperintensities are nonspecific, but compatible with a 
combination of chronic microangiopathy and previously described 
chronic infarcts. 
3. No intracranial hemorrhage. 

___
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Doppler parameters are indeterminate for left 
ventricular diastolic function. Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (?#) appear structurally normal with good leaflet 
excursion. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The estimated pulmonary artery systolic pressure 
is normal. There is an anterior space which most likely 
represents a prominent fat pad. 

 IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with normal global and regional systolic function. 
No significant valvular disease
 
Brief Hospital Course:
Pt presented to ___ due to transient episode of difficutly 
walking, facial droop, and language difficulties. After 
evaluation in ___ ED, pt was admitted to neurology stroke 
service due to concern for possible embolic event in setting of 
recently diagnosed Atrial Fibrillation on EKG in the field. 
MRI/MRA revealed acute ischemic stroke of anterior peripheral 
midline pons. Screening labs were significant for elevated 
cholesterol, LDL, and triglycerides, and atorvastatin 80mg DAILY 
was started. Given new diagnosis of atrial fibrillation, pt was 
put on metoprolol 12.5mg BID and remained in normal sinus. After 
discussion with family, she was started on Eliquis 5mg daily for 
anticoagulation therapy. Pt received ECHO, which revealed no 
evidence of clot. Pt was discharged with outpatient neurology 
and cardiology follow-up.

Transition Issues:
-Pt will need to continue taking Eliquis 5mg twice daily and 
Metoprolol 12.5 mg twice daily for new onset Atrial Fibrillation
-Pt will need to take Atorvastatin 80mg daily upon discharge for 
hyperlipidemia
-Pt will need to follow up with Cardiology (phone no. for appt 
provided to pt) and Neurology in the future
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Donepezil 10 mg PO QHS 
3. HydrALAZINE 50 mg PO BID 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*60 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Every evening Disp 
#*30 Tablet Refills:*2 
3.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
Twice daily Disp #*30 Tablet Refills:*2 
4.  Donepezil 10 mg PO QHS  
5.  HydrALAZINE 50 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute Ischemic Stroke of the anterior peripheral midline pons

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid ___ 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized due to symptoms of difficulty walking and 
possible facial droop and language deficits resulting from an 
ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Previous stroke and TIAs
Hyperlipidemia
Hypertension
Atrial fibrillation

We are changing your medications as follows:
Atorvastatin 80mg DAILY
Metoprolol 12.5mg twice daily
Apixaban 5mg twice daily
STOP taking Clopidogrel (Plavix)
Please take your other medications as prescribed.

Please follow up with Neurology, Cardiology and your primary 
care physician as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___